US05242918
5-bromo-1,6,7,8-tetrahydro-7-methylbenzo[2,1-b:3,4-c']dipyrrole-2,3-dione
To a stirred suspension of 1,6,7,8-tetrahydro-7-methylbenzo[2,1-b:3,4-c']dipyrrole-2,3-dione (0.5 g, 2.48 mmol) in water (20 ml) was added a solution of bromine (0.7 ml) in ethanol (5 ml). After 5 hours stirring at room temperature the reaction was completed and pH was adjusted to 8 with sat Na2CO3. The precipitated product was filtered off and washed with water, M.p. >300° C.

reactant | 1,6,7,8-tetrahydro-7-methylbenzo[2,1-b:3,4-c']dipyrrole-2,3-dione | 2.48 mmol, 0.5 g | CN1CC2=C(C1)C=CC1=C2NC(C1=O)=O | C11H10N2O2
reactant | bromine | 0.7 ml | BrBr | Br2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 20 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-bromo-1,6,7,8-tetrahydro-7-methylbenzo[2,1-b:3,4-c']dipyrrole-2,3-dione | BrC1=CC2=C(NC(C2=O)=O)C=2CN(CC21)C | C11H9BrN2O2
